US07160888B2
Synthesis of 7-{3-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-propoxy}-1H-[1,8]naphthyridin-2-one
2-Benzyloxy-7-{3-[4-(2,3-dichloro-phenyl)-piperazin-1-yl]-propoxy}-[1,8]naphthyridine (367 mg, 0.701 mmol) was hydrogenated using 5% Pd/C (0.1 g) in MeOH (50 mL) for 1 h. The reaction was filtered and concentrated. Purification by liquid chromatography (4–5% MeOH/CH2Cl2) gave the title compound as a white foam (181 mg, 0.418 mmol, 60%). MS: APCI: M+1: 433.1 (Exact Mass: 432.11).

reactant | 2-Benzyloxy-7-{3-[4-(2,3-dichloro-phenyl)-piperazin-1-yl]-propoxy}-[1,8]naphthyridine | 0.701 mmol, 367 mg | C(C1=CC=CC=C1)OC1=NC2=NC(=CC=C2C=C1)OCCCN1CCN(CC1)C1=C(C(=CC=C1)Cl)Cl | C28H28Cl2N4O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 7-{3-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-propoxy}-1H-[1,8]naphthyridin-2-one | 0.418 mmol, 181 mg, 60% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCOC1=CC=C2C=CC(NC2=N1)=O | C21H22Cl2N4O2
